US08809527B2
A suspension of K2CO3 (2.09 g, 15.2 mmol, 3.00 equiv) in absolute ethanol (20 mL) was treated with pyrroldine (439 μL, 5.05 mmol, 1.00 equiv). 3-(bromomethyl)-benzaldehyde (1.00 g, 5.05 mmol, 1.00 equiv) was introduced, and the reaction was heated to 65° C. for 1 h. The reaction was cooled and filtered. The cake was washed with more ethanol. The filtrate was concentrated to a cloudy oil and partitioned between DCM (50 mL) and 2% w/v aq NaHCO3 (50 mL). The organic phase was collected, and the aq layer was extracted with DCM (2×50 mL). All organic layers were combined, dried (Na2SO4), filtered, and concentrated, giving 3-(pyrrolidin-1-ylmethyl)-benzaldehyde (846 mg, 88% yield) as a pale yellow oil, which was used without further purification. 1H-NMR: 300 MHz, (CDCl3) δ: 10.00 (s, 1H), 7.84 (s, 1H), 7.76 (d, J=7.6 Hz, 1H), 7.62 (d, J=7.6 Hz, 1H), 7.47 (dd, J=7.6 Hz, 7.6 Hz, 1H), 3.69 (s, 2H), 2.52 (m, 4H), 1.79 (m, 4H). LCMS-ESI+: calc'd for C12H16NO: 190.1 (M+H+). Found: 190.1 (M+H+).

reactant | K2CO3 | 15.2 mmol, 2.09 g, 3.00 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrroldine | 5.05 mmol, 439 μL, 1.00 equiv | N1CCCC1 | C4H9N
reactant | 3-(bromomethyl)-benzaldehyde | 5.05 mmol, 1.00 g, 1.00 equiv | BrCC=1C=C(C=O)C=CC1 | C8H7BrO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(pyrrolidin-1-ylmethyl)-benzaldehyde | 846 mg, 88% yield | N1(CCCC1)CC=1C=C(C=O)C=CC1 | C12H15NO
